US07642264B2
N-tert-Butyl-3-{4-[6-methyl-4-(4-trifluoromethyl-phenyl)-pyridin-2-yl]-pyrimidin-2-yl}-benzenesulfonamide
The title compound was prepared from 2-chloro-4-[6-methyl-4-(4-trifluoromethylphenyl)-pyridin-2-yl]-pyrimidine (example E.83) (0.5 g, 1.432 mmol) and commercially available 3-(tert-butylsulfamoyl)-benzeneboronic acid (0.404 g, 1.575 mmol) according to the general procedure VI. Obtained as a white solid (0.10 g, 13%) and additional off-white solid (0.48 g, 64%). MS (ISP) 527.2 [(M+H)+]; mp 218° C.

reactant | 2-chloro-4-[6-methyl-4-(4-trifluoromethylphenyl)-pyridin-2-yl]-pyrimidine | 1.432 mmol, 0.5 g | ClC1=NC=CC(=N1)C1=NC(=CC(=C1)C1=CC=C(C=C1)C(F)(F)F)C | C17H11ClF3N3
reactant | 3-(tert-butylsulfamoyl)-benzeneboronic acid | 1.575 mmol, 0.404 g | C(C)(C)(C)NS(=O)(=O)C=1C=C(C=CC1)B(O)O | C10H16BNO4S
product | N-tert-Butyl-3-{4-[6-methyl-4-(4-trifluoromethyl-phenyl)-pyridin-2-yl]-pyrimidin-2-yl}-benzenesulfonamide | C(C)(C)(C)NS(=O)(=O)C1=CC(=CC=C1)C1=NC=CC(=N1)C1=NC(=CC(=C1)C1=CC=C(C=C1)C(F)(F)F)C | C27H25F3N4O2S
